US06930187B2
[1S-[1R*,3R*(E),7R*,10S*,11R*,12R*,16S*]]-3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione
To a suspension of epothilone F (334 g, 637.8 mmol) and diphenylphosphoryl azide (208 ml, 264.3 g, 960 mmol, 1.5 eq) in tetrahydrofuran (6680 ml, previously dried over 3A molecular sieves) was added gradually 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 172 ml, 175 g, 1.15 mol, 1.8 eq) and the reaction subsequently stirred at 15-25° C. for 6-18 hrs. To the reaction mixture was then added a 2.4M solution of ammonium hydroxide (2600 ml, 10 eq ), followed by slow addition of a 1.0 M trimethylphosphine/tetrahydrofuran solution (700 ml, 1.1 eq), and the mixture stirred for 1 hr. The reaction mixture was diluted with water (3340 ml) and the aqueous phase extracted with dichloromethane (3×3340 ml). The organic phase was then washed with diluted ammonium hydroxide (10,710 ml in five portions) and half saturated sodium chloride solutions (3340 ml in two portions); the dichloromethane solution was partially concentrated under reduced pressure to ca 1670 ml. Ethyl acetate (3340 ml) was then added and the mixture reconcentrated to 1670 ml. The process was repeated and to the mixture was added n-heptane (5010 ml). The resulting suspension was stirred for 1 hr and the solid isolated by filtration followed by vacuum drying at 50-60C. to afford the crude product (305.2 g, 91.4% yield).

reactant | epothilone F | 637.8 mmol, 334 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CO)/C)C | C27H41NO7S
reactant | diphenylphosphoryl azide | 960 mmol, 208 ml, 264.3 g, 1.5 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.15 mol, 172 ml, 175 g, 1.8 eq | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ammonium hydroxide | 2600 ml, 10 eq | [OH-].[NH4+]
reactant | trimethylphosphine tetrahydrofuran | 1.0 M, 700 ml, 1.1 eq | CP(C)C.O1CCCC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 3340 ml | O | H2O
product | 3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione | 305.2 g, 91.4% yield | NCC=1SC=C(N1)C=C(C)C1CC2OC2(CCCC(C(C(C(C(C(CC(O1)=O)O)(C)C)=O)C)O)C)C | C27H42N2O6S
